US06867213B2
a) 4-(2-Methoxycarbonylvinyl)benzoic Acid
18.74 g (0.12 mol) of potassium monomethyl malonate were suspended in 18 ml of pyridine. 15.01 g (0.1 mol) of 4-carboxybenzaldehyde and 0.85 g (0.01 mol) of piperidine were added at room temperature with stirring and the mixture was boiled under reflux until the evolution of carbon dioxide had ceased (about 2 h). A further 60 ml of pyridine were added and the mixture was stirred under reflux for a further 1 h. The reaction mixture was treated with stirring with 500 ml of ice and 110 ml of concentrated hydrochloric acid. After the addition was complete, the mixture was stirred for a further 20 min, and the product was filtered off with suction, washed with water and recrystallized from isopropanol. Yield: 12.85 g (62%).

reactant | potassium monomethyl malonate | 0.12 mol, 18.74 g | C(CC(=O)[O-])(=O)OC.[K+]
reactant | 4-carboxybenzaldehyde | 0.1 mol, 15.01 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | piperidine | 0.01 mol, 0.85 g | N1CCCCC1 | C5H11N
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | 110 ml | Cl | ClH
solvent | pyridine | 18 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 4-(2-Methoxycarbonylvinyl)benzoic Acid | COC(=O)C=CC1=CC=C(C(=O)O)C=C1 | C11H10O4
